US04122179
Apovincamine p-chlorophenoxyacetate
4 g of the salt are prepared, according to the method of the example 19.a, starting from 3.36 g of apovincamine and 1.86 g of p-chlorophenoxyacetic acid. The melting point of the salt is about 120° C. and it is insoluble in water; the content of apovincamine is 64%.

reactant | apovincamine | 3.36 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3 | C21H24N2O2
reactant | p-chlorophenoxyacetic acid | 1.86 g | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
solvent | water | O | H2O
product | Apovincamine p-chlorophenoxyacetate | 4 g | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4C(=C2)C(=O)OC)CC3.ClC1=CC=C(OCC(=O)[O-])C=C1 | InChI=1S/C21H24N2O2.C8H7ClO3/c1-3-21-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(18(15)19(21)22)17(13-21)20(24)25-2;9-6-1-3-7(4-2-6)12-5-8(10)11/h4-5,7-8,13,19H,3,6,9-12H2,1-2H3;1-4H,5H2,(H,10,11)/p-1/t19-,21+;/m1./s1
